data/pmechdb/original/mc_train_fold0/raw/train.txt
[Li:11][C:10]1(SCCCS1)CC(COCC2=CC=CC=C2)O[Si](C)(C)C(C)(C)C.C1C(O1)CC2[CH2:20][O:21]2.CC(C)C>>[Li+:11].CC(C)(C)[Si](C)(C)OC(C[C:10]1(SCCCS1)[CH2:20]C(CC2CO2)[O-:21])COCC3=CC=CC=C3.CC(C)C 10,11=10,20;20,21=21
[H:20][O:21]O.[OH:10][K]>>[H:20][OH+:10][K].O[O-:21] 10=20;20,21=21
[H:20][NH+:21](CC)C(C)(N(CC)CC)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[NH:21]C(C)(N(CC)CC)O 10=20;20,21=21
[H:20][O:21]C1=C(C=CC=C1OC)C(C(=C)C(=O)C)O.C1C[N:10]2CCN1CC2>>[H:20][N+:10]12CCN(CC1)CC2.CC(=O)C(=C)C(C1=C(C(=CC=C1)OC)[O-:21])O 10=20;20,21=21
[H:20][NH+:21](CC)C(C)([O-])Cl.[OH2:10]>>[H:20][OH2+:10].CC[NH:21]C(C)([O-])Cl 10=20;20,21=21
C[Si-:10](C)(C)([O:11]S(=O)(=O)C)[O+]=C>>C[Si:10](C)(C)[O+]=C.CS(=O)(=O)[O-:11] 10,11=11
[H:20][C:21]1(C2=C(C=CC=C2)C=C[C+:22]1C)C(C)C.[F-:10]>>[H:20][F:10].C[C:22]1=[C:21](C2=C(C=CC=C2)C=C1)C(C)C 10=20;20,21=21,22
C[O:10][CH:20](C1=CC=CC=C1)[O+:21](C)[Si](C)(C)C.CC(=C)C[Si](C)(C)C.C(F)(F)(F)S(=O)(=O)[O-]>>C[O:21][Si](C)(C)C.C[O+:10]=[CH:20]C1=CC=CC=C1.CC(=C)C[Si](C)(C)C.C(F)(F)(F)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][CH:21](C)[N+](=O)[O-].[NH2-:10]>>[H:20][NH2:10].C[CH-:21][N+](=O)[O-] 10=20;20,21=21
[CH+:20](N)[NH2:10]>>[CH:20](=[NH2+:10])N 10=20,
CCCCC([CH:20]([OH2+:21])[O:10]C)O.[Cl-]>>CCCCC([CH:20]=[O+:10]C)O.[OH2:21].[Cl-] 10=20;20,21=21
[H:20][CH:21](C)[CH+:22]OC.CC[OH:10]>>[H:20][OH+:10]CC.C[CH:21]=[CH:22]OC 10=20;20,21=21,22
CC(=O)CC[C:20](=[O:21])C.C1=CNN=C1[NH2:10].CC(=O)O>>CC(=O)CC[C:20](C)([NH2+:10]C1=NNC=C1)[O-:21].CC(=O)O 10=20;20,21=21
[H:20][CH:21](C#N)[C:22](=[O:23])OCC.[H:10][Na:11]>>CCO[C:22](=[CH:21]C#N)[O-:23].[H:10][H:20].[Na+:11] 10,11=10,20;22,23=23;20,21=21,22
CCCC[C:20](=[O:21])C(CCC1CCCC1)C2CCCCC2.CCC(C1CCCCC1)[NH:10]CC.[BH3-]C#N.CCC(C1CCCCC1)[NH2+]CC.[Na+]>>CCCC[C:20](C(CCC1CCCC1)C2CCCCC2)([NH+:10](CC)C(CC)C3CCCCC3)[O-:21].[BH3-]C#N.CCC(C1CCCCC1)[NH2+]CC.[Na+] 10=20;20,21=21
C[C+:20]=O.[CH:11]1=[CH:10]OC(=C1)[N+](=O)[O-]>>C[C:20](=O)[CH:10]1[CH+:11]C=C(O1)[N+](=O)[O-] 10,11=10,20
C[N-:10]C.C[Si:20](C)(C)Cl>>C[N:10](C)[Si-:20](C)(C)(C)Cl 10=20,
CCOC(=O)C1=C(C(CCC1)C)[O-:10].[K+:20].CC(C)(C)O>>CCOC(=O)C1=C(C(CCC1)C)[O:10][K:20].CC(C)(C)O 10=20,
[H:20][Cl:21].CC1CC([C:11](=[CH:10]1)C)C2=CC=CC=C2>>[H:20][CH:10]1C(CC([C+:11]1C)C2=CC=CC=C2)C.[Cl-:21] 10,11=10,20;20,21=21
CC[Si-:10](C)(C)(C)[Cl:11]>>CC[Si:10](C)(C)C.[Cl-:11] 10,11=11
[H:20][N+:21]1(CCCC1C(=O)NC)C(C(C(C)C)NC(=O)OC)([O-])ON2C3=C(C=CC=C3)N=[N:10]2>>[H:20][N+:10]1=NC2=C(N1OC(C(C(C)C)NC(=O)OC)([N:21]3CCCC3C(=O)NC)[O-])C=CC=C2 10=20;20,21=21
C[CH+:20]CCC[C:11]1=[CH:10]C=CC=C1>>C[CH:20]1CCC[C+:11]2[CH:10]1C=CC=C2 10,11=10,20
CC1(C(=O)CCCC1=O)CC[C:20](C)([N:10]2CCCC2)[OH:21].C1CCNC1>>C[C:20](=[N+:10]1CCCC1)CCC2(C(=O)CCCC2=O)C.[OH-:21].C1CCNC1 10=20;20,21=21
[H:20][O+:21]1CCCC1(C)C(C)Br.[Br-:10]>>[H:20][Br:10].CC(C1(CCC[O:21]1)C)Br 10=20;20,21=21
CC1CC[O:21][C:20]1(C)[O-:10]>>CC(CC[O-:21])[C:20](=[O:10])C 10=20;20,21=21
[H:20][NH2+:21]CCC1=CNC2=C1C=CC=C2.CC(C)(C)OC(=O)C(C(=O)CC1=CC=CC=C1)(NCCC2=CNC3=CC=CC=C32)[O-:10]>>[H:20][O:10]C(C(=O)CC1=CC=CC=C1)(C(=O)OC(C)(C)C)NCCC2=CNC3=CC=CC=C32.C1=CC2=C(C=C1)NC=C2CC[NH2:21] 10=20;20,21=21
[H:20][CH:21](C(=NOS(=O)(=O)C)N)[C:22](=[O:23])NC(C1=CC=CC=C1)C(=O)OCC.C[O:10][Na].CCO>>[H:20][O+:10](C)[Na].CCOC(=O)C(C1=CC=CC=C1)N[C:22](=[CH:21]C(=NOS(=O)(=O)C)N)[O-:23].CCO 10=20;22,23=23;20,21=21,22
COC1=C2C3=C(CC4C5(C3(CCN4)[CH:20]([O:21]2)[CH-:10]CC5)O)C=C1.N#N.O.[K+]>>COC1=C(C2=C(CC3C4(C2(CCN3)[CH:20]=[CH:10]CC4)O)C=C1)[O-:21].N#N.O.[K+] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C(F)(F)F.C1=CC=C(C=C1)C2=CC(C(O2)(C3=CC=CC=C3)[OH:10])C(=O)C4=CC=CC=C4>>[H:20][OH+:10]C1(C(C=C(O1)C2=CC=CC=C2)C(=O)C3=CC=CC=C3)C4=CC=CC=C4.C(F)(F)(F)S(=O)(=O)[O-:21] 10=20;20,21=21
[CH3:10][Mg:11]Cl.C[P+:20]([Mg]Cl)(Cl)Cl>>C[P:20]([CH3:10])([Mg]Cl)(Cl)Cl.[Mg+:11]Cl 10,11=10,20
CC[NH2:10].C=C[C:20](=[O:21])Cl>>CC[NH2+:10][C:20](C=C)([O-:21])Cl 10=20;20,21=21
C[C:11](=[C:10](C1=CC=CC=C1)[C:20](C)(CC2=CC=CC=C2)[OH:21])[O-:12]>>C[C:20](=[C:10](C1=CC=CC=C1)[C:11](=[O:12])C)CC2=CC=CC=C2.[OH-:21] 10,11=10,20;20,21=21;12=11
[H:20][O+:21](CC)C(CC)OCC.OS(=O)(=O)[O-:10]>>CCC(OCC)[O:21]CC.[H:20][O:10]S(=O)(=O)O 10=20;20,21=21
[H:20][O:21]C(=O)C.CC(C)N(CC1=CC=CC=C1)C(=O)C(C(=O)C)NC2(CCC3(C4CC5=C(C3(C2)CCN4C)C=CC=C5)O)[OH:10]>>[H:20][OH+:10]C1(CCC2(C3CC4=C(C2(C1)CCN3C)C=CC=C4)O)NC(C(=O)C)C(=O)N(CC5=CC=CC=C5)C(C)C.CC(=O)[O-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.CCCCCCCCC=CCCCCCCCC(=[O:10])O.C1=CC=CC=C1.C1=CC=C(C=C1)CO>>[H:20][O+:10]=C(CCCCCCCC=CCCCCCCCC)O.CC1=CC=C(C=C1)S(=O)(=O)[O-:21].C1=CC=CC=C1.C1=CC=C(C=C1)CO 10=20;20,21=21
CCN(CC)C1=CC2=C(C=C1)C=C(O2)C(=O)C3=CC=C(C=C3)N4CC[NH:10]CC4.C=C[CH2:20][Br:21].C(=O)([O-])[O-].[K+]>>CCN(CC)C1=CC2=C(C=C1)C=C(O2)C(=O)C3=CC=C(C=C3)N4CC[NH+:10](CC4)[CH2:20]C=C.[Br-:21].C(=O)([O-])[O-].[K+] 10=20;20,21=21
CCOC([CH2:20][Br:21])OCC.CCO[P:10](OCC)OCC>>CCOC([CH2:20][P+:10](OCC)(OCC)OCC)OCC.[Br-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C1CC(=O)C(C(=O)C1)CC(=[O:10])C2=CC=CC=C2>>[H:20][O+:10]=C(CC1C(=O)CCCC1=O)C2=CC=CC=C2.OS(=O)(=O)[O-:21] 10=20;20,21=21
